US05952386
A reaction vessel was charged with 2.54 g of ethyl 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxybutyrate, 4.0 g of 10% aqueous potassium hydroxide solution and 50 ml of methanol. After stirring at room temperature for 24 hours, the reaction mixture was concentrated. Then, 50 ml of diethyl ether was poured into the reaction mixture, and the mixture was extracted twice with 50 ml of 5% aqueous sodium hydrogen carbonate solution. The aqueous layers were combined, and made weak acidic by the addition of concentrated hydrochloric acid. The deposited crystals were extracted twice with 50 ml of diethyl ether. The ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated, which afforded 2.11 g of 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyric acid (90% yield), m.p., 80.9° C.

reactant | ethyl 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxybutyrate | 2.54 g | ClC1=C(OC(C(=O)OCC)CC)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C15H16Cl4O4
reactant | potassium hydroxide | 4.0 g | [OH-].[K+]
reactant | methanol | 50 ml | CO | CH4O
product | 4-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyric acid | 2.11 g, 90% yield | ClC1=C(OCCCC(=O)O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C13H12Cl4O4
